US09029536B2
A) 2-(4-Bromophenoxy)pyridine
To a stirred solution of 4-bromophenol (200 mg) in DMF (3 mL) was added NaH (60% in oil, 46.2 mg) at room temperature. The mixture was stirred for 30 min, and 2-chloropyridine (131 mg) was added. The mixture was exposed to microwave irradiation at 230° C. for 1 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane). The product was crystallized from AcOEt/hexane to give the title compound (76 mg).

reactant | 4-bromophenol | 200 mg | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | NaH | 46.2 mg | [H-].[Na+]
reactant | 2-chloropyridine | 131 mg | ClC1=NC=CC=C1 | C5H4ClN
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(4-Bromophenoxy)pyridine | 76 mg | BrC1=CC=C(OC2=NC=CC=C2)C=C1 | C11H8BrNO
